US08486970B2
A solution of 480 mg of (3RS,4RS)-3-(2,4-dichlorophenyl)-N-{[6-(hydroxymethyl)pyridin-2-yl]methoxy}-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide in 4.8 ml of dichloromethane was cooled to 0° C., 4.5 mg of DMAP and 0.13 ml of pyridine were added, and then 0.7 ml of acetic anhydride was added dropwise, followed by stirring at room temperature overnight. To the reaction mixture was added water, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol) to obtain (6-{[(acetyl{[3-(2,4-dichlorophenyl)-2-{2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)oxy]methyl}pyridin-2-yl)methyl acetate.

reactant | (3RS,4RS)-3-(2,4-dichlorophenyl)-N-{[6-(hydroxymethyl)pyridin-2-yl]methoxy}-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 480 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NOCC1=NC(=CC=C1)CO)=O)C1C(CCCC1)NS(=O)(=O)C | C30H32Cl2N4O6S
reactant | pyridine | 0.13 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | dichloromethane | 4.8 ml | ClCCl | CH2Cl2
catalyst | DMAP | 4.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (6-{[(acetyl{[3-(2,4-dichlorophenyl)-2-{2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)oxy]methyl}pyridin-2-yl)methyl acetate | C(C)(=O)OCC1=NC(=CC=C1)CON(C(=O)C1C(N(C(C2=CC=CC=C12)=O)C1C(CCCC1)NS(=O)(=O)C)C1=C(C=C(C=C1)Cl)Cl)C(C)=O | C34H36Cl2N4O8S
